US08303944B2
(S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-2-(thiazol-2-ylamino)butan-1-one
A solution of 1-((S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-1-oxobutan-2-yl)thiourea (1.29 g, 2.86 mmol) was dissolved in EtOH (50 mL) and 2-chloroacetaldehyde (0.4 mL, 3.15 mmol) was added. The mixture was heated at 70° C. overnight. A further portion of 2-chloroacetaldehyde (0.4 mL, 3.15 mmol) was added and heating continued for a further 12 h. The solution was concentrated in vacuo and the residue was purified by column chromatography (biotage), eluting with 50% EtOAc in hexanes and then 10% MeOH in EtOAc. The desired product was isolated as a orange-brown foam (557.2 mg). LCMS (NH4OAc) shows this to be of sufficient purity. Eluting further with 100% MeOH gave a second fraction (980.8 mg) which was shown to contain the product by TLC (5:4.5:0.5 hex:EtOAc:MeOH). This second fraction from the column was re-purified to give a light orange-brown foam (426.6 mg). The two fractions were combined to afford the title compound as a orange brown foam (983.8 mg, 72%).

reactant | 1-((S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-1-oxobutan-2-yl)thiourea | 2.86 mmol, 1.29 g | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C([C@H](C(C)C)NC(=S)N)=O | C19H24BrN5OS
reactant | 2-chloroacetaldehyde | 3.15 mmol, 0.4 mL | ClCC=O | C2H3ClO
reactant | 2-chloroacetaldehyde | 3.15 mmol, 0.4 mL | ClCC=O | C2H3ClO
solvent | EtOH | 50 mL | CCO | C2H6O
product | (S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-2-(thiazol-2-ylamino)butan-1-one | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C([C@H](C(C)C)NC=1SC=CN1)=O | C21H24BrN5OS
